US04753953
7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.0 g), cis-3-t-butoxycarbonylamino-4-methylpyrrolidine (0.89 g), DBU (0.62 g) and anhydrous acetonitrile (30 ml) was refluxed for 2 hours and then concentrated. The resulting residue was dissolved in chloroform (50 ml), washed with 10% aqueous citric acid solution and water successively, dried over anhydrous sodium sulfate and concentrated. To the resulting residue was added hot methanol to crystallize and then cooled. The resulting precipitate was collected by filtration, added to the mixture of concentrated hydrochloric acid-methanol (1:1, 18 ml) and stirred at room temperature for an hour. The reacting mixture was neutralized with concentrated aqueous ammonia and the resulting precipitate was collected by filtration, washed with ice-water sufficiently and recrystallized from dichloromethane-methanol (1:1) to give the title compound (0.41 g) as colorless prisms, mp 232°-234° C. (decompd.).

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.0 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | cis-3-t-butoxycarbonylamino-4-methylpyrrolidine | 0.89 g | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C | C10H20N2O2
reactant | DBU | 0.62 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.41 g | N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C17H19F2N3O3
